US05026929
The products from 3 reactions were analyzed by gas chromatography and for each of these reactions for which an excess of perfluoroperhydrophenanthrene (0.39 mmol) and 3.38 mmol sodium was used, yields of decafluorophenanthrene (based on sodium) ranged from 40-56%.

reactant | perfluoroperhydrophenanthrene | 0.39 mmol | FC1(C(C(C(C2(C3(C(C(C(C(C3(C(C(C12F)(F)F)(F)F)F)(F)F)(F)F)(F)F)(F)F)F)F)(F)F)(F)F)(F)F)F | C14F24
reactant | sodium | 3.38 mmol | [Na] | Na
product | decafluorophenanthrene | FC1=C(C2=C(C(=C(C(=C2C=2C(=C(C(=C(C12)F)F)F)F)F)F)F)F)F | C14F10
